US04115575
A solution of 30 g of crude 5,6-dichloronicotinic acid chloride in 150 ml of chloroform is added dropwise to a solution of 50 g of methylamine in 250 ml of ethanol whilst stirring and cooling at 10°-15° C. The reaction mixture is stirred for a further 2 hours at 20°-30° C. and is then evaporated in vacuo. The evaporation residue is taken up in ethyl acetate and this solution is washed with 2 N sodium carbonate solution, dried over magnesium sulphate and evaporated. The residue is recrystallised from ethanol-ether. 2,3-Dichloro-5-methylaminocarbonyl-pyridine, thus obtained, melts at 134°-138° C.

reactant | 5,6-dichloronicotinic acid chloride | 30 g | ClC=1C(=NC=C(C(=O)Cl)C1)Cl | C6H2Cl3NO
reactant | methylamine | 50 g | CN | CH5N
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2,3-Dichloro-5-methylaminocarbonyl-pyridine | ClC1=NC=C(C=C1Cl)C(=O)NC | C7H6Cl2N2O
